US09212165B2
Step 7: 5-(Pyridin-2-ylethynyl)bicyclo[3.2.1]oct-1-ylamine
To a solution of tert-butyl 5-(pyridin-2-ylethynyl)bicyclo[3.2.1]octan-1-ylcarbamate (1.1 g, 3.37 mmol) in DCM (5.0 mL) was added 2,2,2-trifluoroacetic acid (2.0 mL). After stirring at room temperature for two hours, the reaction mixture was concentrated under reduced pressure. The residue was diluted with water (10 mL) and extracted with ethyl ether (10 mL) to remove non-amine organic impurity. The aqueous layer was basified with NaOH to pH=12 and then extracted with DCM (3×10 mL). The combined DCM layer was washed with brine, dried over Na2SO4 and concentrated under reduced pressure to afford 600 mg (78%) of the title compound, 5-(pyridin-2-ylethynyl)bicyclo[3.2.1]oct-1-ylamine. 1HNMR (500 MHz, CDCl3): δ 8.51 (d, J=5.0 Hz, 1H), 7.59-7.56 (m, 1H), 7.35 (d, J=7.5 Hz, 1H), 7.16-7.13 (dd, J=7.0, 5.0 Hz, 1H), 2.42 (s, 2H), 2.15-1.54 (m, 12H); ESI-MS m/z: 227 (M+H)+.

reactant | tert-butyl 5-(pyridin-2-ylethynyl)bicyclo[3.2.1]octan-1-ylcarbamate | 3.37 mmol, 1.1 g | N1=C(C=CC=C1)C#CC12CCCC(CC1)(C2)NC(OC(C)(C)C)=O | C20H26N2O2
reactant | 2,2,2-trifluoroacetic acid | 2.0 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 5.0 mL | C(Cl)Cl | CH2Cl2
product | 5-(Pyridin-2-ylethynyl)bicyclo[3.2.1]oct-1-ylamine | 600 mg, 78% | N1=C(C=CC=C1)C#CC12CCCC(CC1)(C2)N | C15H18N2
